US07109185B2
Alternatively, (3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)methylidene]-1-(1-hydroxyethyl)-1,3-dihydro-2H-indol-2-one was prepared in >90% yield by treating 1-{(3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)-methylidene]-2-oxo-2,3-dihydro-1H-indol-1-yl}ethyl acetate (500 mg) with aqueous acetonitrile (10 mL) and formic acid (200 mg) overnight.

reactant | 1-{(3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)-methylidene]-2-oxo-2,3-dihydro-1H-indol-1-yl}ethyl acetate | 500 mg | C(C)(=O)OC(C)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O | C19H20N2O3
reactant | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | formic acid | 200 mg | C(=O)O | CH2O2
product | (3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)methylidene]-1-(1-hydroxyethyl)-1,3-dihydro-2H-indol-2-one | >90% yield | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)C(C)O)=O | C17H18N2O2
